US07531532B2
1-(3-Diethylaminopropyl)-3-[4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]-1-methylurea
To a solution of 4-(2-fluoro-4-nitrophenoxy)pyridin-2-ylamine (300 mg, 1.2 mmol) and triethylamine (0.335 ml, 2.4 mmol) in tetrahydrofuran (30 ml) was added phenyl chloroformate (0.226 ml, 1.8 mmol) dropwise while stirring in an ice bath, followed by stirring for 0.5 hr. The reaction mixture was concentrated under a reduced pressure to give a residue, to which N,N-dimethylformamide (6.0 ml) and N,N-diethyl-N′-methyl-1,3-propanediamine (606 mg, 4.2 mmol) were added, followed by stirring at room temperature for 4 hrs and 45 min. To the reaction mixture was added ethyl acetate (150 ml), washed with a saturated aqueous solution of sodium hydrogencarbonate, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was filtered by silica gel (Fuji Silysia NH, hexane:ethyl acetate=3:1 to 1:1) to provide the titled compound (503 mg, 100%) as a yellow oil.

reactant | 4-(2-fluoro-4-nitrophenoxy)pyridin-2-ylamine | 1.2 mmol, 300 mg | FC1=C(OC2=CC(=NC=C2)N)C=CC(=C1)[N+](=O)[O-] | C11H8FN3O3
reactant | triethylamine | 2.4 mmol, 0.335 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 1.8 mmol, 0.226 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | N,N-diethyl-N′-methyl-1,3-propanediamine | 4.2 mmol, 606 mg | C(C)N(CCCNC)CC | C8H20N2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 6.0 ml | CN(C=O)C | C3H7NO
product | 1-(3-Diethylaminopropyl)-3-[4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]-1-methylurea | 503 mg, 100% | C(C)N(CCCN(C(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F)C)CC | C20H26FN5O4
